US07531553B2
A mixture of 4-chloro-1H-pyrrolo[2,3-b]pyridine (1 g, 6.5 mmol), 4-benzyloxyphenol (1.5 g, 7.5 mmol) and Et3N:TFA (1.2 mL) was heated to 150° C. for 96 h. Formation of the compound was monitored by HPLC-mass spec. The crude was directly purified on silica gel without work-up using a Hexanes/EtOAc gradient (100/0 to 0/100) to afford 4-(4-benzyloxy-phenoxy)-1H-pyrrolo[2,3-b]pyridine.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 6.5 mmol, 1 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | 4-benzyloxyphenol | 7.5 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Et3N | CCN(CC)CC | C6H15N
product | 4-(4-benzyloxy-phenoxy)-1H-pyrrolo[2,3-b]pyridine | C(C1=CC=CC=C1)OC1=CC=C(OC2=C3C(=NC=C2)NC=C3)C=C1 | C20H16N2O2
